US03954790
1,3-Di-(2-hydroxyethyl)-4,5,6,7-tetrabromobenzimidazolone
44.96 g (0.1 mol) of 4,5,6,7-tetrabromobenzimidazolone are stirred with 250 ml of dimethylacetamide and 2.5 g of lithium chloride. A solution of 13.2 g of ethylene oxide (0.3 mol) in 100 ml of dimethylacetamide is added to this mixture at room temperature. The mixture is stirred slowly and heated to 80°C over the course of 2.5 hours. It is then stirred for a further 2 hours at 100°C. During the course of the reaction the starting material dissolves completely.

reactant | 4,5,6,7-tetrabromobenzimidazolone | 0.1 mol, 44.96 g | BrC1=C(C(=C(C2=NC(N=C21)=O)Br)Br)Br | C7Br4N2O
reactant | lithium chloride | 2.5 g | [Cl-].[Li+]
reactant | ethylene oxide | 0.3 mol, 13.2 g | C1CO1 | C2H4O
reactant | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
reactant | dimethylacetamide | 250 ml | CC(=O)N(C)C | C4H9NO
product | 1,3-Di-(2-hydroxyethyl)-4,5,6,7-tetrabromobenzimidazolone | OCCN1C(N(C2=C1C(=C(C(=C2Br)Br)Br)Br)CCO)=O | C11H10Br4N2O3
